US07141672B2
Step b) 4′-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde oxime
This compound was prepared from 4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde, and hydroxylamine in substantially the same manner, as described in Example 1 step a, and was obtained as an off-white solid; MS m/e 422 (M+);

reactant | 4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C24H16F3NO2
reactant | hydroxylamine | NO | H3NO
product | 4′-[5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-carbaldehyde oxime | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)C=NO | C24H17F3N2O2
